US05777154
Preparation of Ethyl 3-Amino-4,4,4-Trifluorocrotonate
To a stirred ethyl trifluoroacetoacetate (87.8 g, 0.48 mol) at 85° C., ammonium acetate (74 0 g, 0.96 mol) was added in portions over 1 hour such that efficient stirring of the mixture was maintained. The mixture was heated at 85° C. for an additional 4 hours. After this period, GC analysis of the reaction mixture showed that the all the ethyl trifluoroacetoacetate had been consumed and the yield of ethyl 3-amino-4,4,4-trifluorocrotonate was greater than 98%.

reactant | ethyl trifluoroacetoacetate | 0.48 mol, 87.8 g | FC(C(CC(=O)OCC)=O)(F)F | C6H7F3O3
reactant | ammonium acetate | 0.96 mol, 0 g | C(C)(=O)[O-].[NH4+]
product | Ethyl 3-Amino-4,4,4-Trifluorocrotonate | N\C(=C/C(=O)OCC)\C(F)(F)F | C6H8F3NO2
